US07776897B2
2-[4-Methyl-5-(2-chlorophenyl)-1,2,4-triazol-3-yl]propan-2-amine (1.19 g) and phthalic anhydride (704 mg) were diluted with acetic acid (5 ml), followed by stirring under heating and refluxing for 22 hours. The reaction solution was subjected to evaporation under reduced pressure and the resulting residue was diluted with ethyl acetate (50 ml) and washed with a saturated aqueous sodium bicarbonate solution (30 ml×2). The organic layer was dried over anhydrous sodium sulfate and filtered and then the solvent was removed by evaporation under reduced pressure. The resulting solid was recrystallized from ethanol-water to obtain 1.47 g of 2-{1-[5-(2-chlorophenyl)-4-methyl-1,2,4-triazol-3-yl]-1-methylethyl}-1H-isoindole-1,3-(2H)-dione (white solid).

reactant | 2-[4-Methyl-5-(2-chlorophenyl)-1,2,4-triazol-3-yl]propan-2-amine | 1.19 g | CN1C(=NN=C1C1=C(C=CC=C1)Cl)C(C)(C)N | C12H15ClN4
reactant | phthalic anhydride | 704 mg | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
product | 2-{1-[5-(2-chlorophenyl)-4-methyl-1,2,4-triazol-3-yl]-1-methylethyl}-1H-isoindole-1,3-(2H)-dione | 1.47 g | ClC1=C(C=CC=C1)C=1N(C(=NN1)C(C)(C)N1C(C2=CC=CC=C2C1=O)=O)C | C20H17ClN4O2
